US05977110
To a colution containing trans-(4-tertbutoxycarbonylamino-cyclohexyl)-acetic acid (15.44 g, 0.06 mol), triethylamine (6.05 g, 0.06 mol) and 1-phenylpiperazine (9.73 g, 0.06 mol) in CH2Cl2 (250 mL) was added EDAC-HCl ((1-ethyl-(3dimethylaminopropyl)-carbodiimide hydrochloride (11.5 g, 0.06 mol)). The reaction mixture was stirred at room temperature 16 hours, then washed with water, 1N NaOH, brine, and dried (MgSO4). The solvent was evaporated, and the residue was chromatographed on a flash silica gel column eluting with CH2Cl2 and then EtOAc. The product fractions were recrystallized from acetonitrile (CH3CN) to yield 12.0 g (50%) of trans-{4-[2-oxo-2-(4-phenyl-piperazin-1-yl)-ethyl]-cylohexyl}-carbamic acid tert-butyl ester as white crystals; mp 197.5-200° C.

reactant | trans-(4-tertbutoxycarbonylamino-cyclohexyl)-acetic acid | 0.06 mol, 15.44 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)CC(=O)O | C13H23NO4
reactant | triethylamine | 0.06 mol, 6.05 g | C(C)N(CC)CC | C6H15N
reactant | 1-phenylpiperazine | 0.06 mol, 9.73 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | EDAC-HCl | CCN=C=NCCCN(C)C.Cl
reactant | 1-ethyl-(3dimethylaminopropyl)-carbodiimide hydrochloride | 0.06 mol, 11.5 g | Cl.C(C)N=C=NCCCN(C)C
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | trans-{4-[2-oxo-2-(4-phenyl-piperazin-1-yl)-ethyl]-cylohexyl}-carbamic acid tert-butyl ester | 12.0 g, 50% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CC(N1CCN(CC1)C1=CC=CC=C1)=O)=O | C23H35N3O3
